US04169720
12 gm (0.058 mol) of methyl 2-(4-hydroxymethyl-phenoxy)-propionate were dissolved in 60 ml of hexamethylphosphoric acid triamide, the solution was cooled to -10° C., and 4.4 ml (0.06 mol) of thionyl chloride were added dropwise thereto. The resulting mixture was stirred for 30 minutes at 0° C. and then for one hour at 10° C., and subsequently poured into water. The aqueous mixture was extracted with ether, and the extract solution was washed with water, sodium bicarbonate solution and again with water, and dried. The ether was subsequently removed in vacuo at room temperature, leaving methyl 2-(4-chloromethyl-phenoxy)-propionate as a residue.

reactant | methyl 2-(4-hydroxymethyl-phenoxy)-propionate | 0.058 mol, 12 gm | OCC1=CC=C(OC(C(=O)OC)C)C=C1 | C11H14O4
reactant | thionyl chloride | 0.06 mol, 4.4 ml | S(=O)(Cl)Cl | Cl2OS
reactant | water | O | H2O
solvent | hexamethylphosphoric acid triamide | 60 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | methyl 2-(4-chloromethyl-phenoxy)-propionate | ClCC1=CC=C(OC(C(=O)OC)C)C=C1 | C11H13ClO3
